US05212187
N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N"-[4-[N-[2-[[(4-methylphenyl)phenyl-methyl]thio]ethyl]N-methylamino]butyl]guanidine
Preparation is effected analogously to Example 1, using 0.87 g (2.5 mmol) of N-methyl-N-[2-[[(4-methylphenyl)phenyl-methyl]thio]ethyl]-1,4-butanediamine and 0.95 g (2.5 mmol) of N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int.[%])=624 ([M+H]+,6), 181 (100); IR (KBr): 2161 cm-1 (C≡N). For analytical purposes a sample is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from ether/isopropanol; m.p.: 134°-140° C. with decomposition.

reactant | N-methyl-N-[2-[[(4-methylphenyl)phenyl-methyl]thio]ethyl]-1,4-butanediamine | 2.5 mmol, 0.87 g | CN(CCCCN)CCSC(C1=CC=CC=C1)C1=CC=C(C=C1)C | C21H30N2S
reactant | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea | 2.5 mmol, 0.95 g | C(#N)NC(OC1=CC=CC=C1)=NCCSCC=1N=C(SC1)NC(=N)N | C15H17N7OS2
product | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N"-[4-[N-[2-[[(4-methylphenyl)phenyl-methyl]thio]ethyl]N-methylamino]butyl]guanidine | C(#N)NC(=NCCCCN(C)CCSC(C1=CC=CC=C1)C1=CC=C(C=C1)C)NCCSCC=1N=C(SC1)NC(=N)N | C30H41N9S3
